US05935966
A solution of 4-ethyl-5-hydroxymethyl-2-methylthiopyrimidine (0.63 g, 3.42 mmol), Ag2O (1.6 g, 6.9 mmol) and MeI (1.1 mL, 17.1 mmol) in CH3CN (10 mL) was stirred overnight, filtered and concentrated to give 4-ethyl-5-methoxymethyl-2-methylthiopyrimidine in 98% yield (0.66 g); GC/MS calcd. for C9H14N2OS (M+) 198, found 198. The title compound was then prepared by (a) oxidation of 4-ethyl-5-methoxymethyl-2-methylthiopyrimidine (0.66 g, 3.35 mmol) with mCPBA (1.18 g, 6.85 mmol) as described for Example 67, and (b) reaction with methyl hydrazine (0.36 mL, 6.85 mmol) followed by citraconic anhydride (0.77 g, 6.85 mmol) also described in Example 67; resulting in a yield of 41% (0.40 g) from 4-ethyl-5-methoxymethyl-2-methylthiopyrimidine; 1H NMR (CDCl3) δ 8.14 (s, 1H), 6.43 (s, 1H), 4.29 (s, 2H), 3.53 (s, 3H), 3.36 (s, 3H), 2.68 (m, 2H), 2.14 (s, 3H), 1.13 (m, 3H).

reactant | 4-ethyl-5-hydroxymethyl-2-methylthiopyrimidine | 3.42 mmol, 0.63 g | C(C)C1=NC(=NC=C1CO)SC | C8H12N2OS
reactant | MeI | 17.1 mmol, 1.1 mL | CI | CH3I
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | 4-ethyl-5-methoxymethyl-2-methylthiopyrimidine | 98% yield | C(C)C1=NC(=NC=C1COC)SC | C9H14N2OS
